US04572799
To a stirred solution of N-Cbz-2-aminoisobutyric acid in dry CH2Cl2 containing dicyclohexylcarbodiimide and dimethylaminopyridine (DMAP), all at 0° C., is added, via an addition funnel, 2,2,5,5-tetramethyl-1-cyclopentyl amine dissolved in CH2Cl2. After stirring for 48 hours, the mixture is filtered, and the filtrate is washed with 5% HCl (1×50 ml), saturated NaHCO3 (1×50 ml), and water (1×50 ml). The organic layer is separated, dried over MgSO4 and is evaporated to yield N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl amide.

reactant | N-Cbz-2-aminoisobutyric acid | C(=O)(OCC1=CC=CC=C1)NC(C(=O)O)(C)C | C12H15NO4
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2,2,5,5-tetramethyl-1-cyclopentyl amine | CC1(C(C(CC1)(C)C)N)C | C9H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl amide | CC1(C(C(CC1)(C)C)NC(C(C)(C)NC(=O)OCC1=CC=CC=C1)=O)C | C21H32N2O3
